US07405305B2
Dissolve 3-(5-methoxybenzofur-7-yl)-4-[1-(3-hydroxypropyl)-1H-indol-3-yl]pyrrole-2,5-dione (0.058 g, 0.118 mmol) in 10 mL dichloromethane. Add carbon tetrabromide (0.077 g, 1 equivalent) and triphenyl phosphine (0.061 g, 1 equivalent). Stir for 10 min, add another equivalent of both reagents. Stir 10 min then dilute with dichloromethane and wash with water followed by brine. Dry over magnesium sulfate then filter and concentrate. Purification by column chromatography (2% methanol:dichloromethane) affords the 3-(5-methoxybenzofur-7-yl)-4-[1-(3-bromopropyl)-1H-indol-3-yl)pyrrole-2,5-dione. 3-(5-Methoxybenzofur-7-yl)-4-[1-(3-bromopropyl)-1H-indol-3-yl]pyrrole-2,5-dione is dissolved in 1.5 mL 1-methyl-2-pyrrolidinone and add dimethylamine (2M solution in tetrahydrofuran, 0.3 mL, 5 equivalents). Heat to 60° C. for 16 hrs. Extract with ethyl acetate versus water, concentrate organic layer. Redissolve in a minimal amount of methanol and load onto an SCX™ Varian column (pretreated with a 5% acetic acid: methanol solution). Wash with methanol and ethyl acetate to remove impurities, flush with 2M ammonia methanol to recover product. ES(M++H)444.0.

reactant | 3-(5-methoxybenzofur-7-yl)-4-[1-(3-hydroxypropyl)-1H-indol-3-yl]pyrrole-2,5-dione | 0.118 mmol, 0.058 g | COC=1C=C(C2=C(C=CO2)C1)C=1C(NC(C1C1=CN(C2=CC=CC=C12)CCCO)=O)=O | C24H20N2O5
reactant | carbon tetrabromide | 0.077 g, 1 equivalent | C(Br)(Br)(Br)Br | CBr4
reactant | triphenyl phosphine | 0.061 g, 1 equivalent | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-(5-methoxybenzofur-7-yl)-4-[1-(3-bromopropyl)-1H-indol-3-yl)pyrrole-2,5-dione | COC=1C=C(C2=C(C=CO2)C1)C=1C(NC(C1C1=CN(C2=CC=CC=C12)CCCBr)=O)=O | C24H19BrN2O4
